US08278441B2
Racemic N-((4aRS,6RS,7aSR)-7a-(3-Bromo-4-fluorophenyl)-6-hydroxy-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide
A solution of racemic N-((1SR,2RS,4RS)-1-(3-bromo-4-fluorophenyl)-4-hydroxy-2-(hydroxymethyl)cyclopentylcarbamothioyl)benzamide (1.21 g, 2.02 mmol) and triphenylphosphine (0.690 mg, 2.63 mmol) in anhydrous THF (18 mL) is added to a separate solution of di-tert-butyl azodicarboxylate (0.606 g, 2.63 mmol) in THF (36 mL) at room temperature. The reaction mixture is stirred at room temperature for 1 hr and concentrated under reduced pressure to give a residue that is purified by silica gel chromatography eluting with a linear gradient of 0% to 40% ethyl acetate in dichloromethane over 15 minutes to give the title compound as racemic mixture (0.557 g, 61%). ES/MS m/e (79Br/81Br) 449, 451 (M+1).

reactant | racemic N-((1SR,2RS,4RS)-1-(3-bromo-4-fluorophenyl)-4-hydroxy-2-(hydroxymethyl)cyclopentylcarbamothioyl)benzamide | 2.02 mmol, 1.21 g | BrC=1C=C(C=CC1F)C1(C(CC(C1)O)CO)NC(=S)NC(C1=CC=CC=C1)=O | C20H20BrFN2O3S
reactant | triphenylphosphine | 2.63 mmol, 0.690 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 2.63 mmol, 0.606 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | THF | 36 mL | C1CCOC1 | C4H8O
product | Racemic N-((4aRS,6RS,7aSR)-7a-(3-Bromo-4-fluorophenyl)-6-hydroxy-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide | BrC=1C=C(C=CC1F)C12N=C(SCC1CC(C2)O)NC(C2=CC=CC=C2)=O | C20H18BrFN2O2S
